US04592774
2-(o-chloro-α-hydroxybenzyl)benzothiazole
47 mL of 1.6M-butyllithium in hexane was added dropwise to a solution of benzothiazole (10 g, from Aldrich) and diethyl ether (200 mL) at -78° C. under nitrogen. The red brown solution was stirred at -78° C. for 30 min., followed by the addition of a solution of o-chlorobenzaldehyde (10.8 g) and diethyl ether (100 mL) at -78° C. The mixture was then stirred at -78° C. for 2 hours before it was allowed to warm to room temperature and stirred at room temperature overnight.

reactant | butyllithium | C(CCC)[Li]
reactant | benzothiazole | 10 g | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
reactant | o-chlorobenzaldehyde | 10.8 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 2-(o-chloro-α-hydroxybenzyl)benzothiazole | ClC1=C(C(O)C=2SC3=C(N2)C=CC=C3)C=CC=C1 | C14H10ClNOS
